US04931444
A mixture of 4.5 parts of 4-(1-piperazinyl)phenol, 5.5 parts of 1-chloro-2,4-dinitrobenzene, 2.6 parts of sodium carbonate and 90 parts of N,N-dimethylacetamide was stirred overnight at 50° C. After cooling, the mixture was poured into ice water and the product was extracted twice with 4-methyl-2-pentanone. The undissolved product was dissolved in 2-propanol. This solution and the combined organic layers were washed with water, dried, filtered and evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and crystallized twice: first from a mixture of 2-propanol and water (10:1 by volume) and then from a mixture of methanol and water (10:1 by volume). The product was filtered off and dried, yielding 3.9 parts (37.7%) of 4-[4-(2,4-dinitrophenyl)-1-piperazinyl]-phenol monohydrochloride, methanol(1:1); mp. 178.0° C. (compound 1.13).

reactant | 4-(1-piperazinyl)phenol | N1(CCNCC1)C1=CC=C(C=C1)O | C10H14N2O
reactant | 1-chloro-2,4-dinitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-[4-(2,4-dinitrophenyl)-1-piperazinyl]-phenol monohydrochloride | 37.7% | Cl.[N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C1=CC=C(C=C1)O | InChI=1S/C16H16N4O5.ClH/c21-14-4-1-12(2-5-14)17-7-9-18(10-8-17)15-6-3-13(19(22)23)11-16(15)20(24)25;/h1-6,11,21H,7-10H2;1H
